US04684606
A solution of 10 g (22.8 mmol) dilinalyl phthalate (prepared by the procedure of Example 1) in 100 mL tetrahydrofuran was treated with 2 g palladium on charcoal catalyst and hydrogenated quickly at 40 psi. A small amount of cleavage gave some phthalic acid byproduct, so the mixture was chromatographed on silica gel to give 7.1 g (70% yield) of pure viscous liquid Compound 6, confirmed by its nmr spectrum.

reactant | dilinalyl phthalate | 22.8 mmol, 10 g | C(C=1C(C(=O)OC(C)(C=C)CCC=C(C)C)=CC=CC1)(=O)OC(C)(C=C)CCC=C(C)C | C28H38O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | phthalic acid | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
